US07534805B2
31.2) 1-[4-(3-nitrophenoxy)phenyl]ethanone
The compound 1-nitro-3-phenoxybenzene (10.17 g, 0.0473 mol) is put into solution in carbon disulphide (70 ml). Aluminium chloride (10.06 g, 0.076 mol) is added by portions at ambient temperature. The reaction medium is cooled down to 0° C. then acetyl chloride (2.4 ml, 0.038 mol) is added dropwise. The reaction medium is left to return to 23° C. then stirring is maintained for 5 hours, followed by cooling down again to 0° C., then the careful addition of ethyl acetate, crushed ice and 3 N hydrochloric acid. After decantation, the medium is extracted with ethyl acetate. The organic phase is washed with water, with a saturated solution of sodium carbonate then with a saturated solution of sodium chloride. It is then dried over sodium sulphate then evaporated. The residue obtained is adsorbed on silica then purified by chromatography on a Biotage-type silica column (eluent: ethyl acetate-heptane: 1-4). After washing with diethyl ether, a yellow-coloured powder is obtained.

reactant | 1-nitro-3-phenoxybenzene | 0.0473 mol, 10.17 g | [N+](=O)([O-])C1=CC(=CC=C1)OC1=CC=CC=C1 | C12H9NO3
reactant | Aluminium chloride | 0.076 mol, 10.06 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.038 mol, 2.4 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | carbon disulphide | 70 ml | C(=S)=S | CS2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(3-nitrophenoxy)phenyl]ethanone | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)C(C)=O)C=CC1 | C14H11NO4
